US04777195
octanoyl-6-aminocaproic acid
oleoylglycine, -alanine, -sarcosine and -6-aminocaproic acid.

reactant | oleoylglycine | C(CCCCCCC\C=C/CCCCCCCC)(=O)NCC(=O)O | C20H37NO3
reactant | alanine | N[C@@H](C)C(=O)O | C3H7NO2
reactant | sarcosine | N(C)CC(=O)O | C3H7NO2
reactant | 6-aminocaproic acid | NCCCCCC(=O)O | C6H13NO2
product | octanoyl-6-aminocaproic acid | C(CCCCCCC)(=O)C(C(=O)O)CCCCN | C14H27NO3
